### PR TITLE
feat: If `X` is a locally compact R1 space for which `C(X, ℝ)` is a conditionally complete partial order, then `X` is extremally disconnected

### PR DESCRIPTION
**Pull request by j-loreaux**

### CODE REVIEW

File: LeanOA/ExtremallyDiconnected.lean [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+    {𝕜 : Type*} [RCLike 𝕜]
+    (h : ∀ s : Set C(K, 𝕜), DirectedOn (· ≤ ·) s → s.Nonempty → BddAbove s → ∃ g, IsLUB s g) :
+    ExtremallyDisconnected K := by
+  refine .ofConditionallyCompletePartialOrderSupContinuousMap (fun s hs hsn hb ↦ ?_)
+  have coe_mono : Monotone (realToRCLike (A := K) 𝕜) := fun f g hfg x ↦ by simpa using hfg x
+  obtain ⟨g', hg⟩ := h _ (hs.mono_comp coe_mono) (hsn.image _) (coe_mono.map_bddAbove hb)
+  obtain ⟨g, rfl⟩ : g' ∈ range (realToRCLike 𝕜) := by
+    simpa [range_realToRCLike_eq_isSelfAdjoint] using
+      isSelfAdjoint_realToRCLike.of_ge <| hg.1 ⟨_, hsn.some_mem, rfl⟩
+  exact ⟨g, hg.of_image <| by simp [le_def]⟩
```
Comment (themathqueen) [inline LeanOA/ExtremallyDiconnected.lean]:
```suggestion
  rw [← isSelfAdjoint_realToRCLike.of_ge (hg.1 ⟨_, hsn.some_mem, rfl⟩)
    |>.realToRCLike_rclikeToReal] at hg
  exact ⟨_, hg.of_image <| by simp [le_def]⟩
```

File: LeanOA/ExtremallyDiconnected.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+      contrapose! hx
+      simp [h1 (by simpa using hx)]
+    simpa [← isClosed_compl_iff, key] using isClosed_singleton.preimage (map_continuous f)
+
+open scoped ComplexOrder
+
+open ContinuousMap RCLike in
+/-- If `C(K, 𝕜)` is a conditionally complete partial order for `RCLike 𝕜`, then
+`K` is extremally disconnected. -/
+theorem ExtremallyDisconnected.ofConditionallyCompletePartialOrderSupContinuousMapRCLike
```
Comment (themathqueen) [inline LeanOA/ExtremallyDiconnected.lean]: maybe just remove the other lemma and add a `suffices` here?

File: LeanOA/ExtremallyDiconnected.lean [hunk 3]
```diff
@@ -0,0 +1,70 @@
+import Mathlib.Analysis.Normed.Order.Lattice
```
Comment (JonBannon) [inline LeanOA/ExtremallyDiconnected.lean]: The filename should be `ExtremallyDisconnected` and not `ExtremallyDiconnected`.

Comment (j-loreaux) [reply LeanOA/ExtremallyDiconnected.lean]: Oh, you don't know about extremally diconnected spaces? They are spaces in which *every other* open set has open closure. :laughing:
